Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([O:7][H:8])[C:9]([H:10])=[C:11][H:12]>>[C:9]([H:10])#[C:11][H:12].[H:1][C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][H:8],0.6004965597999999
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[C:11][C:12]([H:13])([H:14])[H:15]>>[C:11][C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]([H:9])[H:10],1.14030247287
[H:1].[O:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11],-1.48090949241
[H:12].[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([O:7][H:8])=[C:9]([H:10])[H:11]>>[H:1][O:2][C:3]/[C:4]([H:5])=[C:6](\[O:7][H:8])[C:9]([H:10])([H:11])[H:12],-3.14459839548
[H:1][C:2]([H:3])=[C:4][O:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[H:13].[H:1][C:2]([H:3])=[C:4][O:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11][H:12],4.96795137584
[O:1]=[C:2][H:3].[O:4][C:5]#[C:6][C:7]([H:8])([H:9])[H:10]>>[O:1]=[C:2]([H:3])[O:4][C:5]#[C:6][C:7]([H:8])([H:9])[H:10],-2.57139445939
[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[H:1][C:2]#[C:3][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13].[O:4][H:5],3.02685269593
[O:1][C@@:2]([H:3])([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[C:4]([H:5])([H:6])[H:7].[O:1]=[C:2]([H:3])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],0.6463746126600001
[C:1].[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][O:9][C:10]([H:11])([H:12])[H:13]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][O:9][C:10]([H:11])([H:12])[H:13],-3.89685380484
[O:1]=[C:2][O:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[H:11]>>[H:6].[O:1]=[C:2][O:3]/[C:4]([H:5])=[C:7]\[C:8]([H:9])([H:10])[H:11],1.82473345852
[O:1]=[C:2][C:9]([C:6]([C:3][O:4][H:5])([H:7])[H:8])([H:10])[H:11]>>[O:1]=[C:2]1[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]1([H:10])[H:11],-2.46451005037
[H:6].[O:1]=[C:2]([O:3][H:4])[C:5](=[C:7]([H:8])[H:9])[C:10]([H:11])[H:12]>>[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([C:7]([H:8])[H:9])[C:10]([H:11])[H:12],-1.63784505143
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]#[C:8][H:9]>>[H:1][C:2][O:3][C:4]([H:5])[C:7]#[C:8][H:9].[H:6],3.84396542907
[O:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:7](\[O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[C:5]([H:6])=[C:7]([O:8][H:9])[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2]([H:3])[H:4],1.38338334241
[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C@@:10]([C:7]([H:8])[H:9])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C@:3]1([C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C@:10]1([H:11])[C:12]([H:13])([H:14])[H:15],0.170606658429
[H:1][O:2][C:3]([H:4])([C:5]#[C:6][C:7]([H:8])([H:9])[H:10])[O:11][H:12]>>[H:1][O:2][C:3]([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[H:10].[O:11][H:12],4.76446513966
[C:1][C:2]([H:3])([H:4])[C@@:5]([H:6])([O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:1].[C:2]([H:3])([H:4])[C@:5]([H:6])([O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],3.86689912822
[H:1][C:2]=[C:3]([O:4][O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[H:1][C:2]#[C:3][O:4][O:5][C:6]([H:7])([H:8])[H:9],1.78956667097
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:9]([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:8]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-1.9183378926
[H:17].[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16]>>[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-4.421562052440001
[H:1][C:2]#[C:3][O:5][C:6](=[C:7][H:8])[O:9][H:10].[H:4]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6](=[C:7][H:8])[O:9][H:10],-2.25206484612
[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10][O:11][H:12]>>[C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10][O:11][H:12].[H:1][C:2],4.93623811854
[H:1][C:2]([C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[C:4]([H:5])[H:6].[H:1]/[C:2](=[C:3]\[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],6.32455844506
[H:1][C:2](=[C:3]([H:4])[H:5])[C@:7]([O:6])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]1[C:3]([H:4])([H:5])[O:6][C@:7]1([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],0.0820475951905
[C:8]([H:9])([H:10])[H:11].[O:1]=[C:2]=[C:3][O:4][C:5]([H:6])[H:7]>>[O:1]=[C:2]=[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11],-3.62498849395
[H:1][C:2]#[C:3][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13].[H:4][C:5]>>[H:1][C:2]=[C:3]([H:4])[C:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],-3.27236069449
[C:1]#[C:2][O:3][H:4].[C:5]([H:6])[C:7]([H:8])=[C:9][H:10]>>[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])[C:7]([H:8])=[C:9][H:10],-4.1711518222000015
